US04246408
2-Amino-4-chloro-6-hydroxy-s-triazine (hereinafter referred to as COMPOUND II) is described in Chem. Abst., 77, 165133y (1972). This compound in turn can be prepared from 2-amino-4,6-dichloro-s-triazine (hereinafter referred to as COMPOUND I) by controlled hydrolysis of one of the halogens of COMPOUND I. Condensation of COMPOUND II with aminoacetaldehyde dimethyl acetal in aqueous basic media at reflux temperatures gave crystalline 2-amino-4-(2,2-dimethoxyethylamino)-s-triazin-6-one (hereinafter referred to as COMPOUND III) in a good yield. Hydrolysis of the acetal groups of COMPOUND III was achieved by heating COMPOUND III in 6 N hydrochloric acid on a steambath under a nitrogen atmosphere to give the hydrochloride salt of 2-amino-4(2-hydroxyvinyleneamino)-s-triazin-4-one. The free-base of this compound, hereinafter referred to as COMPOUND IV, was obtained by careful neutralization of an aqueous solution of the hydrochloride salt. Ring annulation of either COMPOUND IV or its hydrochloride salt in concentrated sulfuric acid at 95° C. for 1.5 hours gave crystalline 2-aminoimidazo[1,2-a]-s-triazin-4-one (hereinafter referred to as COMPOUND V) in a good yield.

reactant | 2-Amino-4-chloro-6-hydroxy-s-triazine | NC1=NC(=NC(=N1)Cl)O | C3H3ClN4O
reactant | 2-amino-4,6-dichloro-s-triazine | NC1=NC(=NC(=N1)Cl)Cl | C3H2Cl2N4
reactant | aminoacetaldehyde dimethyl acetal | COC(CN)OC | C4H11NO2
product | 2-amino-4-(2,2-dimethoxyethylamino)-s-triazin-6-one | NC=1NC(N=C(N1)NCC(OC)OC)=O | C7H13N5O3
